US09370515B2
Preparation of N-(3,4-dimethoxyphenyl)-3-(thieno[3,2-b]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-amine
To a solution of 6-chloro-3-(thieno[3,2-b]pyridin-2-yl)imidazo[1,2-b]pyridazine (50 mg, 0.174 mmol, 1.0 equiv), xantphos (20 mg, 0.0348 mmol, 0.2 equiv), palladium acetate (4 mg, 0.0174 mmol, 0.1 equiv), and potassium carbonate (482 mg, 3.49 mmol, 20 equiv) in dioxane (5.0 mL) was added 3,4-dimethoxyaniline (32 mg, 0.209 mmol, 1.2 equiv) and heated to 110° C. for 2 h. Purification by column chromatography using 2% methanol in dichloromethane elution gave 35 mg, of the yellow solid, 50%.

reactant | 6-chloro-3-(thieno[3,2-b]pyridin-2-yl)imidazo[1,2-b]pyridazine | 0.174 mmol, 50 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC1=NC=CC=C1S2 | C13H7ClN4S
reactant | xantphos | 0.0348 mmol, 20 mg, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium carbonate | 3.49 mmol, 482 mg, 20 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethoxyaniline | 0.209 mmol, 32 mg, 1.2 equiv | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0174 mmol, 4 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(3,4-dimethoxyphenyl)-3-(thieno[3,2-b]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-amine | COC=1C=C(C=CC1OC)NC=1C=CC=2N(N1)C(=CN2)C2=CC1=NC=CC=C1S2 | C21H17N5O2S
